US05055458
A solution of diethyl 4-t-butyldimethylsilyloxy-3-hydroxybutoxymethylphosphonate (0.49 g, 1.31 mmol), 9-hydroxy-6-phthalimidopurine (0.5 g, 1.31 mmol) and triphenylphosphine (0.52 g, l.97 mmol) in dry tetrahydrofuran (50 ml) was stirred under nitrogen at O° C. during the addition of diethyl azodicarboxylate (0.31 ml, 1.97 mmol). The solution was then stirred at 20° C. for 4 h and evaporated in vacuo. The residue was chromatographed on silica, eluting with hexane-acetone 4:1, affording 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-phthalimidopurine (575mg, 69%) as a clear oil. νmax (film) 3500, 1790, 1740, 1600 and 1580 cm-1 ; δH [(CD3)2SO] 0.04 (6H, s, CH3SiCH3), 0.74 (9H, s, (CH3)3CSi), 1.22 (6H, t, J6.9 Hz, 2×CH3CH 2), 2.04 (2H, m, SiOCH2CHCH2), 3.79 (2H, m, CH2OSi), 3.88 (2H, d, J8.2 Hz, CH2P), 3.96 (2H, m, CH2OCH2P), 4.03 (4H, m, 2×CH3CH2), 4.69 (1H, m, CHON), 8.05 (4H, m, ArH), 8.91 (1H, s, H-2/H-8), 9.07 (1H, s, H-2/H-8); m/z (FAB+ve Ion), 656 (MNa+) and 634 (MH+). Found: C, 53.10 H, 6.30; N, 10.83%; C28H40N5O8PSi requires C, 53.07; H, 6.36,; N, 11.05%.

reactant | diethyl 4-t-butyldimethylsilyloxy-3-hydroxybutoxymethylphosphonate | 1.31 mmol, 0.49 g | [Si](C)(C)(C(C)(C)C)OCC(CCOCP(OCC)(OCC)=O)O | C15H35O6PSi
reactant | 9-hydroxy-6-phthalimidopurine | 1.31 mmol, 0.5 g | ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H7N5O3
reactant | triphenylphosphine | 97 mmol, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.97 mmol, 0.31 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-phthalimidopurine | 575mg, 69% | [Si](C)(C)(C(C)(C)C)OCC(CCOCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C28H40N5O8PSi
